US06417366B2
A mixture of 3-(3-quinolyl)propenal (10 g, 54.6 mmol) in methanol (50 mL) was cooled to 0° C. and to this mixture, sodium borohydride (1.03 g, 27 mmol) was charged in small portions keeping the temperature below 10° C. After the addition was complete, the mixture was stirred at 23° C. for 90 min. until the reaction was complete as monitored by TLC (isopropyl acetate, visualize under uv). To the mixture, saturated ammonium chloride solution (20 mL) was added and the mixture was stirred for one hour. The mixture was then concentrated under vacuum at 45° C. to remove methanol. The product was extracted in isopropyl acetate (150 mL), and the solvent was evaporated under vacuum to dryness. The product was triturated with MTBE (40 mL), filtered, washed with MTBE (10 mL) and dried to give 3-(3-quinolyl)-2-propen-1-ol (6.6 g, 65.4%) as a light yellow solid. The NMR of the product was consistent with the proposed structure.

reactant | 3-(3-quinolyl)propenal | 54.6 mmol, 10 g | N1=CC(=CC2=CC=CC=C12)C=CC=O | C12H9NO
reactant | sodium borohydride | 27 mmol, 1.03 g | [BH4-].[Na+]
reactant | isopropyl acetate | C(C)(=O)OC(C)C | C5H10O2
reactant | ammonium chloride | 20 mL | [Cl-].[NH4+]
solvent | methanol | 50 mL | CO | CH4O
product | 3-(3-quinolyl)-2-propen-1-ol | 6.6 g, 65.4% | N1=CC(=CC2=CC=CC=C12)C=CCO | C12H11NO
